US09370515B2
Preparation of 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-ol
To a solution of 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-yl 4-methylbenzenesulfonate (200 mg, 0.349 mmol, 1.0 equiv) in MeOH (5.0 mL) was added sodium hydroxide (70 microliter, 5.0 M aqueous solution, 1.0 equiv). The reaction mixture was stirred at rt for 3 h, then quenched with water and extracted with ethyl acetate. Purification using column chromatography gave 80 mg of the white product, 76%.

reactant | 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-yl 4-methylbenzenesulfonate | 0.349 mmol, 200 mg, 1.0 equiv | CC1=CC=C(C=C1)S(=O)(=O)OC=1C2=C(C=NC1)C=C(S2)C2=CN=C1N2N=C(C=C1)Cl | C20H13ClN4O3S2
reactant | sodium hydroxide | 5.0 M, 70 microliter, 1.0 equiv | [OH-].[Na+]
solvent | MeOH | 5.0 mL | CO | CH4O
product | 2-(6-chloroimidazo[1,2-b]pyridazin-3-yl)thieno[3,2-c]pyridin-7-ol | 80 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=1C=NC=C(C1S2)O | C13H7ClN4OS
